US04707302
A mixture of 730 g (5 mol) of 2,5-dimethylhexane-2,5-diol, 3 g of p-toluenesulfonic acid, 430 g (5 mol) of pivalaldehyde and 1 l of toluene was refluxed for 4 hours (h) during which the water of reaction produced (90 ml) was removed. The reaction mixture was then cooled down to room temperature (RT) and stirred up with 10 ml of 25% strength aqueous sodium hydroxide solution, the phases were separated, the organic phase was washed with a little water until neutral, and the toluene was then removed at 50°-60° C. The residue obtained was fractionated under reduced pressure affording 909 g (4.25 mol) of 2-tert.-butyl-4,4,7,7,-tetramethyl-1,3-dioxacycloheptane (boiling point 54° C./0.2 mbar). This corresponds to a yield of 85% of theory.

reactant | 2,5-dimethylhexane-2,5-diol | 5 mol, 730 g | CC(C)(CCC(C)(O)C)O | C8H18O2
reactant | pivalaldehyde | 5 mol, 430 g | C(C(C)(C)C)=O | C5H10O
reactant | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-tert.-butyl-4,4,7,7,-tetramethyl-1,3-dioxacycloheptane | 4.25 mol, 909 g, yield of 85% | C(C)(C)(C)C1OC(CCC(O1)(C)C)(C)C | C13H26O2
